US07875645B2
4.5 g (1.6 ml, 16.7 mmol) Phosphorus tribromide were added portion-wise, with stirring to a solution of 4.98 g (33.0 mmol) rac-1-p-tolyl-propan-1-ol and 0.37 ml pyridine in 17 ml anhydrous diethyl ether at 0° C. The reaction mixture was warmed to ambient temperature and the reaction monitored by HPLC to completion. The reaction mixture was poured onto ice-water and the whole was extracted with dichloromethane. The organic phase was washed with brine, dried over MgSO4 and evaporated to give rac-1-(1-bromo-propyl)-4-methyl-benzene as a colourless oil that did not require further purification: NMR (CDCl3, ppm): 1.01 (3H, t), 2.28 (2H, m), 2.40 (3H, s), 4.92 (1H, t), 7.20 (4H, m).

reactant | Phosphorus tribromide | 16.7 mmol, 1.6 ml, 4.5 g | P(Br)(Br)Br | Br3P
reactant | rac-1-p-tolyl-propan-1-ol | 33.0 mmol, 4.98 g | C1(=CC=C(C=C1)C(CC)O)C | C10H14O
reactant | pyridine | 0.37 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 17 ml | C(C)OCC | C4H10O
product | rac-1-(1-bromo-propyl)-4-methyl-benzene | BrC(CC)C1=CC=C(C=C1)C | C10H13Br
